US05840732
ii) Synthesis of 5-nonylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.96 g (4.40 mmol) of 5-nonylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 30 ml of methanol, 0.42 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 2.01 g (94.8%, yellow-orange oily substance) of the desired product.

reactant | 5-nonylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 4.40 mmol, 1.96 g | C(CCCCCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C23H31N3O2S2
reactant | hydrochloric acid | 0.42 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-nonylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCCCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C23H31N3O2S2.ClH/c1-2-3-4-5-6-7-8-12-19-22(27)26(23(28)30-19)16-9-10-18-29-21-14-11-13-20-24-15-17-25(20)21;/h11-15,17H,2-10,16,18H2,1H3;1H
